US06492372B1
Step B: Preparation of 4—(N,N-Di-n-hexylamino)—3-ethoxy—1,1-dioxo—1,2,5-thiadiazole
Dihexylamine (90 mg, 0.48 mmol) was added to a solution of 3,4-diethyloxy—1,1-dioxo—1,2,5-thiadiazole (100 mg, 0.48 mmol) in ethanol (5 mL) and the reaction stirred overnight at room temperature. The solvent was removed under reduced pressure and the residue absorbed onto silica gel, and purified by flash column chromatography (silica, hexane:EtOAc 3:1) to yield the title intermediate (120 mg, 72%).

reactant | Dihexylamine | 0.48 mmol, 90 mg | C(CCCCC)NCCCCCC | C12H27N
reactant | 3,4-diethyloxy—1,1-dioxo—1,2,5-thiadiazole | 0.48 mmol, 100 mg | C(C)OC1=NS(N=C1OCC)(=O)=O | C6H10N2O4S
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4—(N,N-Di-n-hexylamino)—3-ethoxy—1,1-dioxo—1,2,5-thiadiazole | 120 mg, 72% | C(CCCCC)N(CCCCCC)C=1C(=NS(N1)(=O)=O)OCC | C16H31N3O3S
